*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.4
* < ILD_dielectric_const = 3.6
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_0 1 2 3 4 REF
C_C1 1 REF 0.3394143354448pf
C_C2 1 2 15.785584146031pf
C_C3 1 4 0.2153516977314pf
C_C4 2 REF 0.5340832814038pf
C_C5 2 3 0.1405198362144pf
C_C6 3 REF 0.3530835838272pf
C_C7 3 4 7.3973840691295pf
C_C8 4 REF 0.4135762473227pf
L_L1 3 5 1.3048287012877nh
R_RL1 5 4 -1.144848284e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_1 1 2 3 4 REF
C_C1 1 REF 0.3500406218938pf
C_C2 1 2 15.875852036142pf
C_C3 1 4 0.2168180137309pf
C_C4 2 REF 0.5478822537247pf
C_C5 2 3 0.128409734116pf
C_C6 3 REF 0.3648644985535pf
C_C7 3 4 5.4804447405602pf
C_C8 4 REF 0.4014770388222pf
L_L1 3 5 1.3063806086221nh
R_RL1 5 4 2.0847724954e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_2 1 2 3 4 REF
C_C1 1 REF 0.3496385117157pf
C_C2 1 2 15.991045406268pf
C_C3 1 4 0.2184232514909pf
C_C4 2 REF 0.5508961143527pf
C_C5 2 3 0.1200631094769pf
C_C6 3 REF 0.3729162532272pf
C_C7 3 4 4.1427627073402pf
C_C8 4 REF 0.393094601734pf
L_L1 3 5 1.3076790958243nh
R_RL1 5 4 1.3169226804e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_3 1 2 3 4 REF
C_C1 1 REF 0.3420066528748pf
C_C2 1 2 16.172087727204pf
C_C3 1 4 0.2206230932807pf
C_C4 2 REF 0.5478696944589pf
C_C5 2 3 0.1132431116078pf
C_C6 3 REF 0.3794270706267pf
C_C7 3 4 2.9926373973136pf
C_C8 4 REF 0.3862151170056pf
L_L1 3 5 1.3089927103654nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_4 1 2 3 4 REF
C_C1 1 REF 0.3301275558821pf
C_C2 1 2 16.437815044422pf
C_C3 1 4 0.223558571653pf
C_C4 2 REF 0.5418979237978pf
C_C5 2 3 0.1084014846769pf
C_C6 3 REF 0.3840462901573pf
C_C7 3 4 2.0718314344641pf
C_C8 4 REF 0.3812517161452pf
L_L1 3 5 1.3103027989234nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_5 1 2 3 4 REF
C_C1 1 REF 0.3187797989968pf
C_C2 1 2 16.76143930969pf
C_C3 1 4 0.22695714958pf
C_C4 2 REF 0.5369628455594pf
C_C5 2 3 0.1059644798989pf
C_C6 3 REF 0.3864984730814pf
C_C7 3 4 1.4633057624184pf
C_C8 4 REF 0.3785592512495pf
L_L1 3 5 1.3113583336192nh
R_RL1 5 4 -1.575057468e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_6 1 2 3 4 REF
C_C1 1 REF 0.3091950256372pf
C_C2 1 2 17.145974898003pf
C_C3 1 4 0.2309321268551pf
C_C4 2 REF 0.5343626993719pf
C_C5 2 3 0.1050930802017pf
C_C6 3 REF 0.3876795612521pf
C_C7 3 4 1.0470588362035pf
C_C8 4 REF 0.377221186552pf
L_L1 3 5 1.3122237756671nh
R_RL1 5 4 -2.325240348e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_7 1 2 3 4 REF
C_C1 1 REF 0.3002192915888pf
C_C2 1 2 17.68141329093pf
C_C3 1 4 0.2364727682152pf
C_C4 2 REF 0.5344337237289pf
C_C5 2 3 0.1054310689012pf
C_C6 3 REF 0.3881346185579pf
C_C7 3 4 0.7154553782739pf
C_C8 4 REF 0.3766577979264pf
L_L1 3 5 1.3130377382235nh
R_RL1 5 4 -3.048337567e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_8 1 2 3 4 REF
C_C1 1 REF 0.2920018411006pf
C_C2 1 2 18.40616800619pf
C_C3 1 4 0.2440339627928pf
C_C4 2 REF 0.5377738998701pf
C_C5 2 3 0.1069944948521pf
C_C6 3 REF 0.3880457161871pf
C_C7 3 4 0.4605879015485pf
C_C8 4 REF 0.3766808378812pf
L_L1 3 5 1.3138030884518nh
R_RL1 5 4 -3.699886474e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_9 1 2 3 4 REF
C_C1 1 REF 0.2840135158564pf
C_C2 1 2 19.396566353345pf
C_C3 1 4 0.2544742782928pf
C_C4 2 REF 0.5448423927434pf
C_C5 2 3 0.1099210475723pf
C_C6 3 REF 0.3875877197089pf
C_C7 3 4 0.2731765561289pf
C_C8 4 REF 0.3771011243861pf
L_L1 3 5 1.3144790243594nh
R_RL1 5 4 -4.195088877e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_10 1 2 3 4 REF
C_C1 1 REF 0.2752041756936pf
C_C2 1 2 20.730127770859pf
C_C3 1 4 0.2686631473695pf
C_C4 2 REF 0.5556109400858pf
C_C5 2 3 0.1143299454156pf
C_C6 3 REF 0.3869514954534pf
C_C7 3 4 0.1378505657678pf
C_C8 4 REF 0.3777068707944pf
L_L1 3 5 1.3150788753733nh
R_RL1 5 4 -4.480747884e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_11 1 2 3 4 REF
C_C1 1 REF 0.2639787980673pf
C_C2 1 2 22.561593196995pf
C_C3 1 4 0.2883199121817pf
C_C4 2 REF 0.5705662104507pf
C_C5 2 3 0.1206985777211pf
C_C6 3 REF 0.386260379859pf
C_C7 3 4 0.0430513924511pf
C_C8 4 REF 0.3783568051688pf
L_L1 1 5 66.587783455518nh
R_RL1 5 2 5.4139111352488
L_L2 3 6 1.3155509889011nh
R_RL2 6 4 -4.485499812e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_12 1 2 3 4 REF
C_C1 1 REF 0.2485009958391pf
C_C2 1 2 25.08084724726pf
C_C3 1 4 0.315573807765pf
C_C4 2 REF 0.5904336438164pf
C_C5 2 3 0.1297175132068pf
C_C6 3 REF 0.3855906692381pf
C_C7 4 REF 0.3789657772133pf
L_L1 1 5 38.561734237367nh
R_RL1 5 2 2.8080693250158
L_L2 3 6 1.3157370886108nh
R_RL2 6 4 -4.14831884e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_13 1 2 3 4 REF
C_C1 1 REF 0.2257825815352pf
C_C2 1 2 28.67785565395pf
C_C3 1 4 0.3547373274271pf
C_C4 2 REF 0.6174959588745pf
C_C5 2 3 0.1428778119426pf
C_C6 3 REF 0.3849655020451pf
C_C7 4 REF 0.3795141305021pf
R_R1 1 2 -930.9478249302
L_L1 1 5 18.294069082132nh
R_RL1 5 2 -113.3879479305
L_L2 3 6 1.3154979856304nh
R_RL2 6 4 -3.448082134e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_14 1 2 3 4 REF
C_C1 1 REF 0.1916032717551pf
C_C2 1 2 33.948837746828pf
C_C3 1 4 0.4122250003587pf
C_C4 2 REF 0.655603266706pf
C_C5 2 3 0.1623267708251pf
C_C6 3 REF 0.3843756190382pf
C_C7 4 REF 0.3800353902925pf
R_R1 1 2 -573.10450158
L_L1 1 5 16.589704804064nh
R_RL1 5 2 2.455538668517
L_L2 3 6 1.3150964540314nh
R_RL2 6 4 -2.329956442e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_15 1 2 3 4 REF
C_C1 1 REF 0.1368326001799pf
C_C2 1 2 42.236687492332pf
C_C3 1 4 0.5022421223464pf
C_C4 2 REF 0.7138324565598pf
C_C5 2 3 0.1926468953294pf
C_C6 3 REF 0.3837827664779pf
C_C7 4 REF 0.3806272107978pf
R_R1 1 2 -381.4717061397
L_L1 1 5 9.110605649638nh
R_RL1 5 2 1.1111625459157
L_L2 3 6 1.3144107430762nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_16 1 2 3 4 REF
C_C1 1 REF 0.0343401466124pf
C_C2 1 2 57.56053151291pf
C_C3 1 4 0.6675848496541pf
C_C4 2 REF 0.8196469747474pf
C_C5 2 3 0.2477640630952pf
C_C6 3 REF 0.3830574268948pf
C_C7 4 REF 0.3815824549743pf
R_R1 1 2 -258.3047944672
L_L1 1 5 4.7492855871485nh
R_RL1 5 2 0.4178462248724
L_L2 3 6 1.3131612304167nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_17 1 2 3 4 REF
C_C1 1 2 91.626877330582pf
C_C2 1 4 1.0337349767846pf
C_C3 2 REF 1.052704136673pf
C_C4 2 3 0.3689824520819pf
C_C5 3 REF 0.3818991572533pf
C_C6 4 REF 0.3837601739316pf
R_R1 1 2 -173.3570323557
L_L1 1 5 1.7304104417591nh
R_RL1 5 2 0.1271584072358
L_L2 1 6 74.706280729321nh
R_RL2 6 3 0.0789081221384
L_L3 1 7 73.958583886787nh
R_RL3 7 4 0.0795363506788
L_L4 2 8 74.783671625364nh
R_RL4 8 3 0.0062154365078
L_L5 2 9 74.038762534401nh
R_RL5 9 4 0.0060695924396
L_L6 3 10 1.3104708022214nh
R_RL6 10 4 2.5810569434e-5
Kn_K1 L_L1 L_L2 0.0726933815537
Kn_K2 L_L1 L_L3 0.0729366979172
Kn_K3 L_L1 L_L4 -0.079458937291
Kn_K4 L_L1 L_L5 -0.079980803727
Kn_K5 L_L2 L_L3 0.9911976033698
Kn_K6 L_L2 L_L4 0.9884247027057
Kn_K7 L_L2 L_L5 0.9795475415149
Kn_K8 L_L2 L_L6 -0.104006029845
Kn_K9 L_L3 L_L4 0.9795898498997
Kn_K10 L_L3 L_L5 0.9883079729546
Kn_K11 L_L3 L_L6 0.0285822247654
Kn_K12 L_L4 L_L5 0.9912068168773
Kn_K13 L_L4 L_L6 -0.103811398478
Kn_K14 L_L5 L_L6 0.0287082522725
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_18 1 2 3 4 REF
C_C1 1 2 202.13620722989pf
C_C2 1 4 2.2210546439141pf
C_C3 2 REF 1.8055061589585pf
C_C4 2 3 0.761382108887pf
C_C5 3 REF 0.3788755868177pf
C_C6 4 REF 0.3913977841085pf
R_R1 1 2 -118.9662541904
L_L1 1 5 73.799692968349nh
R_RL1 5 REF -0.048710498074
L_L2 1 6 0.5310372494154nh
R_RL2 6 2 0.0207379389947
L_L3 1 7 26.515526093343nh
R_RL3 7 3 0.0123981914002
L_L4 1 8 25.819195659131nh
R_RL4 8 4 0.0126842247164
L_L5 2 9 73.330356232975nh
R_RL5 9 REF -0.026702327688
L_L6 2 10 26.598496197189nh
R_RL6 10 3 0.0013477661176
L_L7 2 11 25.906019719631nh
R_RL7 11 4 0.0012602701782
L_L8 3 12 99.665184068671nh
R_RL8 12 REF -0.037388745615
L_L9 3 13 1.3019331778476nh
R_RL9 13 4 4.0386794253e-5
L_L10 4 14 98.95823799299nh
R_RL10 14 REF -0.037161269103
Kn_K1 L_L1 L_L2 0.0798992353772
Kn_K2 L_L1 L_L5 0.9963957643642
Kn_K3 L_L1 L_L8 0.8567195203836
Kn_K4 L_L1 L_L10 0.8597121162831
Kn_K5 L_L2 L_L3 0.0597035957307
Kn_K6 L_L2 L_L4 0.0599829203359
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081686923886
Kn_K9 L_L2 L_L7 -0.083291017295
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9752092812346
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9900031466272
Kn_K15 L_L3 L_L7 0.9650257390308
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.170050656514
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9652116557451
Kn_K21 L_L4 L_L7 0.9897348880301
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0522266460601
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8562265262998
Kn_K26 L_L5 L_L10 0.85919454509
Kn_K27 L_L6 L_L7 0.9752882336224
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.169457768585
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0524708581663
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0881774944305
Kn_K35 L_L8 L_L10 0.9934515108651
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_19 1 2 3 4 REF
C_C1 1 2 1736.682943233pf
C_C2 1 4 18.717856623792pf
C_C3 2 REF 12.243497263019pf
C_C4 2 3 6.2109005283947pf
C_C5 3 REF 0.3413839401786pf
C_C6 4 REF 0.5030475582795pf
R_R1 1 REF -820.6030698625
R_R2 1 2 5.5675663896686
R_R3 1 4 518.31035019131
R_R4 2 REF 820.58987289229
R_R5 2 4 -518.4946844449
L_L1 1 5 5.104262888306nh
R_RL1 5 REF -2.234492663e-4
L_L2 1 6 0.0419790537458nh
R_RL2 6 2 -4.54931721e-3
L_L3 1 7 3.0351936433852nh
R_RL3 7 3 -2.094572419e-3
L_L4 1 8 2.4259510210413nh
R_RL4 8 4 -2.739204587e-3
L_L5 2 9 5.0773643855773nh
R_RL5 9 REF -4.770028573e-3
L_L6 2 10 3.0440402073467nh
R_RL6 10 3 -4.3652696e-4
L_L7 2 11 2.4394906085934nh
R_RL7 11 4 -2.207597343e-4
L_L8 3 12 8.0935107652728nh
R_RL8 12 REF -2.320707604e-3
L_L9 3 13 1.1905539185242nh
R_RL9 13 4 1.0e-5
L_L10 4 14 7.4776427725767nh
R_RL10 14 REF -2.96904538e-3
Kn_K1 L_L1 L_L2 0.0743986228078
Kn_K2 L_L1 L_L5 0.9958804552752
Kn_K3 L_L1 L_L8 0.7905675621177
Kn_K4 L_L1 L_L10 0.8219433438375
Kn_K5 L_L2 L_L3 0.0464103189028
Kn_K6 L_L2 L_L4 0.0445588637869
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.071090432296
Kn_K9 L_L2 L_L7 -0.086744697279
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.010496194862
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7869076054431
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9930957317305
Kn_K16 L_L3 L_L7 0.7786327381875
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.473397195477
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.780530628548
Kn_K22 L_L4 L_L7 0.9913758338211
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.17102642517
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7898708658267
Kn_K27 L_L5 L_L10 0.820836285011
Kn_K28 L_L6 L_L7 0.7876871998999
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.471476201079
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1719280399789
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2909686426052
Kn_K36 L_L8 L_L10 0.9242642774065
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_20 1 2 3 4 REF
C_C1 1 REF 15.732689296927pf
C_C2 1 3 8.0612706977514pf
C_C3 2 4 24.239698621295pf
C_C4 3 REF 0.4371461891734pf
C_C5 4 REF 0.2110085651668pf
R_R1 1 2 -9.501773101747
R_R2 1 4 -886.6901110924
R_R3 2 4 887.06311171681
L_L1 1 5 3.2634765598375nh
R_RL1 5 REF 7.8834882661e-4
L_L2 1 6 0.486298434173nh
R_RL2 6 2 0.5892321705418
L_L3 1 7 2.3393255988402nh
R_RL3 7 3 0.2480632074342
L_L4 1 8 1.8648416396078nh
R_RL4 8 4 0.3694133153926
L_L5 2 9 3.7419860728663nh
R_RL5 9 REF 0.6339898776461
L_L6 2 10 2.2071169603478nh
R_RL6 10 3 0.0726753090058
L_L7 2 11 1.6056809674358nh
R_RL7 11 4 0.0255450195633
L_L8 3 12 5.6111050154808nh
R_RL8 12 REF 0.2773811178523
L_L9 3 13 1.136262500472nh
R_RL9 13 4 0.0120609297992
L_L10 4 14 5.1474884481725nh
R_RL10 14 REF 0.4050167120838
Kn_K1 L_L1 L_L5 0.932761456441
Kn_K2 L_L1 L_L8 0.7636039389574
Kn_K3 L_L1 L_L10 0.7985759943846
Kn_K4 L_L2 L_L3 0.2899465211139
Kn_K5 L_L2 L_L4 0.3914005342743
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.170891045178
Kn_K8 L_L2 L_L7 -0.128522238542
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 0.0853923359455
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.7344217987521
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.8934154198907
Kn_K15 L_L3 L_L7 0.6319087040322
Kn_K16 L_L3 L_L8 0.901909729966
Kn_K17 L_L3 L_L9 -0.493983583302
Kn_K18 L_L3 L_L10 0.9432160085975
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.5723766484782
Kn_K21 L_L4 L_L7 0.8622850162669
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.227312003085
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L6 0.0588058321781
Kn_K26 L_L5 L_L7 0.0408325894049
Kn_K27 L_L5 L_L8 0.7797513978928
Kn_K28 L_L5 L_L9 -0.033418735995
Kn_K29 L_L5 L_L10 0.8298103714526
Kn_K30 L_L6 L_L7 0.7108872035401
Kn_K31 L_L6 L_L8 1.0
Kn_K32 L_L6 L_L9 -0.548646253397
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.1979766455834
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.3168061656071
Kn_K38 L_L8 L_L10 0.8952171758674
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_21 1 2 3 4 REF
C_C1 1 2 228.33500079848pf
C_C2 1 4 2.4976827613628pf
C_C3 2 REF 1.9872693499384pf
C_C4 2 3 0.8548533665509pf
C_C5 3 REF 0.3766875480251pf
C_C6 4 REF 0.3912889347568pf
R_R1 1 2 -40.83120248608
L_L1 1 5 35.664598258172nh
R_RL1 5 REF 0.0042587021949
L_L2 1 6 0.1531941147574nh
R_RL2 6 2 0.0143785467914
L_L3 1 7 13.633463967973nh
R_RL3 7 3 0.0081484605419
L_L4 1 8 12.945978385572nh
R_RL4 8 4 0.0085534221692
L_L5 2 9 35.334654347964nh
R_RL5 9 REF 0.0189240958376
L_L6 2 10 13.731525533833nh
R_RL6 10 3 7.7400329239e-4
L_L7 2 11 13.051939457747nh
R_RL7 11 4 6.5829711627e-4
L_L8 3 12 49.021130836408nh
R_RL8 12 REF 0.0128468646699
L_L9 3 13 1.2876471450948nh
R_RL9 13 4 1.0e-5
L_L10 4 14 48.323037771987nh
R_RL10 14 REF 0.0132707000194
Kn_K1 L_L1 L_L2 0.1033478663983
Kn_K2 L_L1 L_L5 0.9978530885586
Kn_K3 L_L1 L_L8 0.8496451860548
Kn_K4 L_L1 L_L10 0.8556325717609
Kn_K5 L_L2 L_L3 0.0190745336004
Kn_K6 L_L2 L_L4 0.0167697831591
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.086617462898
Kn_K9 L_L2 L_L7 -0.091637101499
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9518732337122
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9944082055496
Kn_K15 L_L3 L_L7 0.9459349985794
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.235702803188
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9466970285125
Kn_K21 L_L4 L_L7 0.9941157038084
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0734974562706
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8484608859031
Kn_K26 L_L5 L_L10 0.8543435671747
Kn_K27 L_L6 L_L7 0.9522303782337
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.233920360793
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0741619675076
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1249690121757
Kn_K35 L_L8 L_L10 0.9867975962994
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_22 1 2 3 4 REF
C_C1 1 REF 0.0846057662446pf
C_C2 1 2 53.412541655074pf
C_C3 1 4 0.618129668361pf
C_C4 2 REF 0.8037675595312pf
C_C5 2 3 0.232736115932pf
C_C6 3 REF 0.3800895083984pf
C_C7 4 REF 0.3775895104615pf
R_R1 1 2 -385.2712670226
L_L1 1 5 0.5410757070861nh
R_RL1 5 2 0.0160682500377
L_L2 1 6 56.045799584869nh
R_RL2 6 3 0.0134393955668
L_L3 1 7 55.21148588552nh
R_RL3 7 4 0.0135102135094
L_L4 2 8 56.671224746872nh
R_RL4 8 3 -7.832836519e-4
L_L5 2 9 55.844494050046nh
R_RL5 9 4 -8.148709193e-4
L_L6 3 10 1.3051593853774nh
R_RL6 10 4 -3.398555395e-5
Kn_K1 L_L1 L_L4 -0.105328222208
Kn_K2 L_L1 L_L5 -0.106794756142
Kn_K3 L_L2 L_L3 0.9882967869903
Kn_K4 L_L2 L_L4 0.9952150185577
Kn_K5 L_L2 L_L5 0.9834334154742
Kn_K6 L_L2 L_L6 -0.125075866862
Kn_K7 L_L3 L_L4 0.9836499783001
Kn_K8 L_L3 L_L5 0.9951440668843
Kn_K9 L_L3 L_L6 0.0277333355967
Kn_K10 L_L4 L_L5 0.9884268862265
Kn_K11 L_L4 L_L6 -0.123942924385
Kn_K12 L_L5 L_L6 0.0280198149341
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_23 1 2 3 4 REF
C_C1 1 REF 0.3081610621379pf
C_C2 1 2 21.122935159887pf
C_C3 1 3 0.0108838578117pf
C_C4 1 4 0.2717382944651pf
C_C5 2 REF 0.5914689524582pf
C_C6 2 3 0.1166892923868pf
C_C7 3 REF 0.3798345527514pf
C_C8 4 REF 0.3740985164797pf
L_L1 1 5 0.8955445223221nh
R_RL1 5 2 3.3813667439e-4
L_L2 3 6 1.308004654996nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_24 1 2 3 4 REF
C_C1 1 REF 0.3826838586825pf
C_C2 1 2 11.168257011222pf
C_C3 1 3 0.0505535888155pf
C_C4 1 4 0.1636169651363pf
C_C5 2 REF 0.5306988703399pf
C_C6 2 3 0.0798113199265pf
C_C7 3 REF 0.3787937702625pf
C_C8 4 REF 0.3719361443486pf
L_L1 1 5 1.2801672887493nh
R_RL1 5 2 1.0e-5
L_L2 3 6 1.3059563449371nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_25 1 2 3 4 REF
C_C1 1 REF 0.4187456586614pf
C_C2 1 2 7.1215714633756pf
C_C3 1 3 0.0710326450638pf
C_C4 1 4 0.1181346231217pf
C_C5 2 REF 0.5119283050285pf
C_C6 2 3 0.062829408076pf
C_C7 2 4 0.0253903380794pf
C_C8 3 REF 0.3772750170579pf
C_C9 4 REF 0.3697938606039pf
L_L1 1 5 1.7412388972447nh
R_RL1 5 2 2.5824427782e-4
L_L2 3 6 1.3035674141135nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_26 1 2 3 4 REF
C_C1 1 REF 0.434366668001pf
C_C2 1 2 5.7973430630334pf
C_C3 1 3 0.0812182140176pf
C_C4 1 4 0.101930731002pf
C_C5 2 REF 0.5100189441263pf
C_C6 2 3 0.0554046067979pf
C_C7 2 4 0.0445431142076pf
C_C8 3 REF 0.3760073703078pf
C_C9 4 REF 0.3682043113696pf
L_L1 1 5 1.8706004198759nh
R_RL1 5 2 9.7276210747e-5
L_L2 3 6 1.3025222011336nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param35_26

